
* CD4046B Phase-locked Loop
* Model copyright of Geoff Western (aka Alec-T). May be copied freely for private non-commercial use.

.SUBCKT CD4046Bg C1a C1b CompIn Inh R1 R2 SigIn VCOin Vdd Vss Dem PC1out PC2out Phaseout VCOout Zen
A1 N004 e 0 0 0 0 N007 0 SCHMITT vt=0 vh=1m td=50n
A2 e CompIn 0 0 0 0 N012 0 SCHMITT vt=0 vh=1m td=50n	; was CompIn e
A6 0 N007 0 N012 0 N016 N013 0 XOR
S3 PhaseOut Vdd N006 Vss ms
S4 Vss PhaseOut N003 Vss ms
S1 PC2out Vdd N002 Vss ms
S2 Vss PC2out N005 Vss ms
S5 PC1out Vdd N013 Vss ms
S6 Vss PC1out N016 Vss ms
R2 Vdd e 500k
R3 e Vss 500k
A7 0 N002 0 N005 0 N006 N003 0 OR
A4 0 N007 0 N012 0 0 N009 0 AND td=100n
A3 Vdd 0 N007 0 N009 0 N002 0 DFLOP
A5 Vdd 0 N012 0 N009 0 N005 0 DFLOP
D3 Vss Zen Zd
M3 R2 R2 N001 N001 mp2
M6 N008 R2 N001 N001 mp2
M4 R2 VCOin R1 R1 mn2
A11 N015 N014 0 0 0 N018 N019 0 SRFLOP td=50n
A9 C1a e 0 0 0 0 N014 0 SCHMITT vt=0 vh=1m td=50n
A10 C1b e 0 0 0 0 N015 0 SCHMITT vt=0 vh=1m td=50n
M5 N017 VCOin Dem Dem mn2
S13 VCOout Vdd N011 Vss ms	;was N010
S14 Vss VCOout N010 Vss ms	;was N011
S8 N017 Vdd ni 0 ms
S7 N001 Vdd ni 0 ms
A8 Inh e 0 0 0 ni 0 0 SCHMITT vt=0 vh=1m td=50n
S9 C1a N008 N010 Vss ms
S10 Vss C1a N011 Vss ms
S11 C1b N008 N011 Vss ms
S12 Vss C1b N010 Vss ms
D1 Vss C1a D
D2 Vss C1b D
A12 0 N018 0 ni 0 0 N011 0 AND
A13 0 N019 0 ni 0 0 N010 0 AND
R4 e Inh 10meg
M2 N004 SigIn Vss Vss mn1
M1 N004 SigIn Vdd Vdd mp1
R1 N004 SigIn 250k
.lib standard.dio
.lib standard.mos
.model D D
.model Zd D(Is=2n Rs=.5 Cjo=200p nbv=3 bv=5.2 Ibv=1m Vpk=5.2)
.model ms sw(ron=300 roff=1e7 vt=.5 vh=0)
.model mn1 nmos(vto=1 kp=6e-5)
.model mp1 pmos(vto=-1 kp=6e-5)
.model mn2 nmos(vto=1.8 kp=1 Rd=5)
.model mp2 pmos(vto=-1 kp=1)
.ENDS CD4046Bg
